US09169254B2
DMF (10 mL) was added to a reaction vessel containing 4-formyl-benzoic acid methyl ester (501.1 mg, 3.053 mmol) and potassium acetate (15.0 mg, 0.153 mmol), and the mixture was cooled to 0° C. Trimethyl(trifluoromethyl)silane (0.96 mL, 6.105 mmol) was added dropwise and the mixture was stirred for 50 minutes. 2 N hydrochloric acid (10 mL) was then added to the reaction mixture, and the mixture was stirred at room temperature overnight and then diluted with ethyl acetate. A saturated aqueous sodium bicarbonate solution was added, and the organic layer and the aqueous layer were separated. The organic layer was sequentially washed with water and saturated brine, and then dried over anhydrous Na2SO4 and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to give 4-(2,2,2-trifluoro-1-hydroxy-ethyl)-benzoic acid methyl ester (680.8 mg, 95%).

reactant | 4-formyl-benzoic acid methyl ester | 3.053 mmol, 501.1 mg | COC(C1=CC=C(C=C1)C=O)=O | C9H8O3
reactant | Trimethyl(trifluoromethyl)silane | 6.105 mmol, 0.96 mL | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | hydrochloric acid | 2 N, 10 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | potassium acetate | 0.153 mmol, 15.0 mg | C(C)(=O)[O-].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-(2,2,2-trifluoro-1-hydroxy-ethyl)-benzoic acid methyl ester | 680.8 mg, 95% | COC(C1=CC=C(C=C1)C(C(F)(F)F)O)=O | C10H9F3O3
